US08211927B2
D: (S)-5-(4-Chlorophenyl)-4-methyl-N-(tetrahydrofuran-3-yl)isoxazole-3-carboxamide
(S)-Tetrahydrofuran-3-amine (13 μL, 0.13 mmol) was added to a mixture of 5-(4-chlorophenyl)-4-methylisoxazole-3-carboxylic acid (23 mg, 0.10 mmol), 1-hydroxybenzotriazole hydrate (16 mg, 0.12 mmol), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (22 mg, 0.12 mmol) and triethylamine (16 μL, 0.12 mmol) in tetrahydrofuran (0.8 mL) and N,N-dimethylformamide (0.1 mL). After stirring overnight, the volatiles were removed in vacuo and the compound was purified by silica gel chromatography eluting with 2% methanol in dichloromethane to afford the title compound: (21.6 mg, 0.07 mmol). MS (ESI) m/z (M+H+): 307.0.

reactant | (S)-Tetrahydrofuran-3-amine | 0.13 mmol, 13 μL | O1C[C@H](CC1)N | C4H9NO
reactant | 5-(4-chlorophenyl)-4-methylisoxazole-3-carboxylic acid | 0.10 mmol, 23 mg | ClC1=CC=C(C=C1)C1=C(C(=NO1)C(=O)O)C | C11H8ClNO3
reactant | 1-hydroxybenzotriazole hydrate | 0.12 mmol, 16 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.12 mmol, 22 mg | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 0.12 mmol, 16 μL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 0.8 mL | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 0.1 mL | CN(C=O)C | C3H7NO
product | (S)-5-(4-Chlorophenyl)-4-methyl-N-(tetrahydrofuran-3-yl)isoxazole-3-carboxamide | ClC1=CC=C(C=C1)C1=C(C(=NO1)C(=O)N[C@@H]1COCC1)C | C15H15ClN2O3
